US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-1,2-dion-3-yl)-propyl]-N-[3-(4-amino-3,5-dibromophenyloxy)-propyl]-methylamine
The title compound is prepared from 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-1,2-dion-3-yl)-1-chloropropane, N-[3-(4-amino-3,5-dibromophenyloxy)-propyl]-methylamine and triethylamine analogously to Example 6.

reactant | 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-1,2-dion-3-yl)-1-chloropropane | COC1=CC2=C(C(C(N(CC2)CCCCl)=O)=O)C=C1OC | C15H18ClNO4
reactant | N-[3-(4-amino-3,5-dibromophenyloxy)-propyl]-methylamine | NC1=C(C=C(C=C1Br)OCCCNC)Br | C10H14Br2N2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-1,2-dion-3-yl)-propyl]-N-[3-(4-amino-3,5-dibromophenyloxy)-propyl]-methylamine | COC1=CC2=C(C(C(N(CC2)CCCN(CCCOC2=CC(=C(C(=C2)Br)N)Br)C)=O)=O)C=C1OC | C25H31Br2N3O5
